US05981572
7-Chloro-benzofuran-4-carbaldehyde
A solution of the N-methylmorpholine-N-oxide (37.64 g) in aoetonitrile (370 ml) containing 3 Å molecular sieves (36.6 g) was stirred at room temperature overnight and cooled in ice. A solution of 4-bromomethyl-7-chloro-benzofuran (39.44 g) in acetonitrile (90 ml) was added and the mixture stirred in at 0° C. for 4 h. The mixture was filtered and the filtrate evaporated to dryness. Water and ethyl acetate were added to the residue and the organic phase separated, dried (Na2SO4) and evaporated to give the title compound (21.3 g) as a pale yellow solid.

reactant | N-methylmorpholine-N-oxide | 37.64 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 4-bromomethyl-7-chloro-benzofuran | 39.44 g | BrCC1=CC=C(C2=C1C=CO2)Cl | C9H6BrClO
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | 7-Chloro-benzofuran-4-carbaldehyde | 21.3 g | ClC=1C=CC(=C2C=COC21)C=O | C9H5ClO2
